US07618981B2
To a solution of 1,1-dimethylethyl {(1S)-1-[(4-bromophenyl)methyl]-3-hydroxypropyl}carbamate (20 g, 58 mmol) in dioxane (500 mL) was added tributyl[1-(ethyloxy)ethenyl]stannane (39 mL, 116 mmol) and PdCl2(PPh3)2. The resulting solution was heated at 100° C. for 5 h. The reaction was then concentrated and the residue purified by flash chromatography (47.5% EtOAc, 47.5% hexanes, 5% triethylamine) to give 15 g (77%) of 1,1-dimethylethyl [(1S)-1-({4-[1-(ethyloxy)ethenyl]phenyl}methyl)-3-hydroxypropyl]carbamate as a brown solid.

reactant | 1,1-dimethylethyl {(1S)-1-[(4-bromophenyl)methyl]-3-hydroxypropyl}carbamate | 58 mmol, 20 g | BrC1=CC=C(C=C1)C[C@@H](CCO)NC(OC(C)(C)C)=O | C15H22BrNO3
reactant | tributyl[1-(ethyloxy)ethenyl]stannane | 116 mmol, 39 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,1-dimethylethyl [(1S)-1-({4-[1-(ethyloxy)ethenyl]phenyl}methyl)-3-hydroxypropyl]carbamate | 15 g, 77% | C(C)OC(=C)C1=CC=C(C=C1)C[C@@H](CCO)NC(OC(C)(C)C)=O | C19H29NO4
